US07951805B2
SYNTHESIS OF 6-(6-AMINO-3-AZABICYCLO[3.1.0]HEX-3-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
To a stirred solution of 6-(6-dibenzylamino-3-azabicyclo[3.1.0]hex-3-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.415 g, 0.90 mmol) in methanol (10 mL) was added Pd/C (0.200 g, 12 mol %). The mixture was placed under an atmosphere of hydrogen for 3 days. The reaction mixture was filtered through celite and concentrated in vacuo. The crude title compound was obtained and used without further purification.

reactant | 6-(6-dibenzylamino-3-azabicyclo[3.1.0]hex-3-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.90 mmol, 0.415 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CC2C(C2C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C29H33N5O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | 6-(6-AMINO-3-AZABICYCLO[3.1.0]HEX-3-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CC2C(C2C1)N | C15H21N5O
